US07670613B2
(1S,2S)-4-(2-Allyloxy-cyclohexyloxy)-2-trifluoromethyl-benzonitrile
To 15 mL anhydrous DMF (dimethylformamide) was added trans 2-allyloxy-cyclohexanol (1.144 g, 7.323 mmol), then NaH (60% in oil, 0.4261 g, 10.65 mmol) was added and stirred at room temperature 15 min. Then 4-fluoro-2-trifluoromethyl benzonitrile (1.435 g, 7.59 mmol) was added, and the solution was stirred at room temperature overnight. The DMF solution was extracted twice with hexane. Then the reaction mixture was poured into 100 mL of water and extracted three times with ether. The combined ether layers were extracted three times with water, then once with brine, and dried over magnesium sulfate, filtered, and the solvent removed. The crude product was chromatographed with a hexane/methylene chloride mixture (100% hexane to 1:1 hexane/methylene chloride). The desired fractions were combined, and the solvent removed to give 0.6245 g product. HNMR (CDCl3, ppm) 7.70-7.68 (1H, d, J=8.8 Hz), 7.32 (1H, s), 7.19-7.16 (1H, d, J=8.8 Hz), 5.80-5.71 (1H, m), 5.20-5.0 (2H, m), 4.30-4.20 (1H, m), 4.10-4.00 (1H, m) 4.00-3.90 (1H, m), 3.50-3.39 (1H, m), 2.20-2.00 (2H, m), 1.80-1.70 (2H, m), 1.65-1.20 (5H, m). FNMR (CDCl3)-62.67 ppm. MS+326.

reactant | trans 2-allyloxy-cyclohexanol | 7.323 mmol, 1.144 g | C(C=C)O[C@H]1[C@@H](CCCC1)O | C9H16O2
reactant | NaH | 10.65 mmol, 0.4261 g | [H-].[Na+]
reactant | 4-fluoro-2-trifluoromethyl benzonitrile | 7.59 mmol, 1.435 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
solvent | DMF | 15 mL | CN(C=O)C | C3H7NO
product | (1S,2S)-4-(2-Allyloxy-cyclohexyloxy)-2-trifluoromethyl-benzonitrile | 0.6245 g | C(C=C)O[C@@H]1[C@H](CCCC1)OC1=CC(=C(C#N)C=C1)C(F)(F)F | C17H18F3NO2
